US09403801B2
Step 5) tert-butyl 2-oxo-7-azaspiro[4.5]decane-7-carboxylate
To a solution of tert-butyl 2-hydroxy-7-azaspiro[4.5]decane-7-carboxylate (252 mg, 1.0 mmol) in DCM (5 mL) was added Dess-Martin periodinane (0.84 g, 1.99 mmol). The reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/5) to give the title compound as yellow oil (197 mg, 79%).

reactant | tert-butyl 2-hydroxy-7-azaspiro[4.5]decane-7-carboxylate | 1.0 mmol, 252 mg | OC1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C14H25NO3
reactant | Dess-Martin periodinane | 1.99 mmol, 0.84 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-oxo-7-azaspiro[4.5]decane-7-carboxylate | 197 mg, 79% | O=C1CC2(CC1)CN(CCC2)C(=O)OC(C)(C)C | C14H23NO3
